US08791108B2
To a solution of (S)-ethyl 6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(4,4-dimethylcyclohex-1-en-1-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (185 mg, 0.392 mmol) in EtOH (4 mL) was added 1N NaOH (0.392 mL, 0.392 mmol) and the resulting mixture was stirred at room temp for 4 h. A this point LCMS indicated completion of reaction. Solvents were then removed under reduced pressure and the mixture was diluted with water (3 mL), acidified with 1N HCl, extracted with ethyl acetate (25 mL), washed with brine (10 mL), dried (Na2SO4), filtered and concentrated to afford (S)-6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(4,4-dimethylcyclohex-1-en-1-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylic acid (150 mg, 0.338 mmol, 86% yield) as light yellow solid. 1H NMR (500 MHz, CDCl3) δ 7.15 (s, 1H), 6.26 (br. s., 0.6H), 5.93 (br. s., 0.4H), 5.53 (s, 0.6H), 5.46 (s, 0.4H), 4.29-4.19 (m, 2H), 2.79 (s, 1H), 2.72 (s, 2H), 2.19-2.14 (m, 2H), 1.77-1.54 (m, 4H), 1.29-1.16 (m, 18H). LCMS (M+H)=444.4.

reactant | (S)-ethyl 6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(4,4-dimethylcyclohex-1-en-1-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 0.392 mmol, 185 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C1=CCC(CC1)(C)C)N=C(C2)C(=O)OCC)C | C26H37N3O5
reactant | NaOH | 0.392 mmol, 1N, 0.392 mL | [OH-].[Na+]
solvent | EtOH | 4 mL | CCO | C2H6O
product | (S)-6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(4,4-dimethylcyclohex-1-en-1-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 0.338 mmol, 150 mg, 86% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C1=CCC(CC1)(C)C)N=C(C2)C(=O)O)C | C24H33N3O5
